### PR TITLE
[Merged by Bors] - chore: weekly lints for 2026-01-19

### PR DESCRIPTION
**Pull request by chenson2018**
Changes suggested by the `mergeWithGrind` linter, from the weekly job posted at [#mathlib4 > Weekly linting log @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Weekly.20linting.20log/near/568725131)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-radar** [comment]
Benchmarking cdc38d54dc541981c7678c5e671e1af7d51e1d9a against 7048ffa529b90841dce5015ed4cc61e7fd5d7261 ([preliminary results](https://radar.lean-lang.org/repos/mathlib4/commits/cdc38d54dc541981c7678c5e671e1af7d51e1d9a?reference=7048ffa529b90841dce5015ed4cc61e7fd5d7261)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>

**Comment by chenson2018** [comment]
Please let me know if I should revert any changes radar flagged as "small". For `Mathlib.GroupTheory.Coxeter.Inversion` I did a bit more than strictly necessary to satisfy the linter, so there's a judgement of readability versus performance.

File: Mathlib/Analysis/LocallyConvex/WithSeminorms.lean [hunk 1]
```diff
@@ -560,11 +560,7 @@ theorem WithSeminorms.isVonNBounded_iff_seminorm_bddAbove {s : Set E} (hp : With
     IsVonNBounded 𝕜 s ↔ ∀ i : ι, BddAbove (p i '' s) := by
   simp_rw [hp.isVonNBounded_iff_seminorm_bounded, bddAbove_def, forall_mem_image]
   congrm ∀ i, ?_
-  constructor
-  · rintro ⟨r, -, hr⟩
-    exact ⟨r, fun x hx ↦ (hr x hx).le⟩
-  · rintro ⟨r, hr⟩
-    exact ⟨1 + max r 0, by positivity, fun x hx ↦ by grw [hr hx]; grind⟩
+  constructor <;> rintro ⟨r, _⟩ <;> [use r; use 1 + max r 0] <;> grind
```
Comment (mcdoll) [inline Mathlib/Analysis/LocallyConvex/WithSeminorms.lean]: This seems a bit over-golfed and hard to maintain. The linter complained about `grw [hr hx]; grind`, right? Is it possible to replace `fun x hx ↦ by grw [hr hx]; grind` with `by grind`?

Comment (chenson2018) [reply Mathlib/Analysis/LocallyConvex/WithSeminorms.lean]: Yes, you can make just that change. I personally don't find this too over-golfed, but if it is preferable to keep separate bullets, I would choose to write
```lean
· rintro ⟨r, _⟩
  use 1 + max r 0
  grind
```

Comment (Vierkantor) [reply Mathlib/Analysis/LocallyConvex/WithSeminorms.lean]: I agree with Moritz, something like this would be better:
```lean
· rintro ⟨r, _⟩
  use 1 + max r 0
  grind
· rintro ⟨r, _⟩
  use r
  grind
```

File: Mathlib/MeasureTheory/Measure/Prokhorov.lean [hunk 2]
```diff
@@ -428,9 +428,7 @@ lemma isCompact_setOf_finiteMeasure_mass_le_compl_isCompact_le
     have : ∑ i ∈ Finset.range (m + 1), (ν i : Measure E) (K n)ᶜ
         = ∑ i ∈ Finset.Ioc n m, (ν i : Measure E) (K n)ᶜ := by
       apply (Finset.sum_subset _ _).symm
-      · intro i hi
-        simp only [Finset.mem_Ioc, Finset.mem_range_succ_iff] at hi ⊢
-        grind
+      · grind
```
Comment (Vierkantor) [inline Mathlib/MeasureTheory/Measure/Prokhorov.lean]: I would even reduce this to:

```lean
      apply (Finset.sum_subset (by grind) _).symm
```

Then we don't need to indent the other arm of the proof.

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 3]
```diff
@@ -423,16 +423,7 @@ theorem IsReduced.nodup_rightInvSeq {ω : List B} (rω : cs.IsReduced ω) : List
...
-    rw [h₂, cs.getD_rightInvSeq, cs.getD_rightInvSeq,
-      (Nat.sub_add_cancel (by lia) : j' - 1 + 1 = j'), eraseIdx_eq_take_drop_succ,
-      drop_append, drop_of_length_le (by simp [j_lt_j'.le]), length_take, drop_drop,
-      nil_append, min_eq_left_of_lt (j_lt_j'.trans j'_lt_length), Nat.add_comm,
-      ← add_assoc, Nat.sub_add_cancel (by lia), mul_left_inj, mul_right_inj]
-    congr 2
-    show (List.take j ω ++ List.drop (j + 1) ω)[j' - 1]? = ω[j']?
-    rw [getElem?_append_right (by simp [Nat.le_sub_one_of_lt j_lt_j']), getElem?_drop]
-    grind
+  have h₃ : t' = (ris ω).getD j' 1 := by grind [cs.getD_rightInvSeq, drop_of_length_le, drop_drop]
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:426]: This is a very nice golf! 🎉

**Review by Vierkantor — APPROVED** [review]
Thanks for the nice work! 🎉 

I tend to ignore the small changes unless they form a clear pattern: sometimes it's just noise. In this case, I am happy to make the trade off to get a shorter, more readable proof in exchange for a bit more compilation time. (Also I think the estimates take into account the file length, right? So a shorter proof gets penalized extra.)

bors d+
